US05624543
2-(4'-Isopropyl benzoyl)benzoic acid.
A mixture of 16 g (0.11 mol) phthalic anhydride, 30 g (0.22 mol) aluminum chloride and 12 g (0.10 mol) isopropylbenzene in 120 mL carbon disulfide was refluxed for 7 h in a water bath. The carbon sulfide was then removed by distillation. A dilute HCl solution (100 mL, 1.2N) was then added slowly to the remaining residue. The aqueous phase was decanted to yield a sticky solid. Na2CO3 aqueous solution (500 mL, 15%) was added slowly to the residue which resulted in considerable foaming. The solution was heated and the resultant solution was filtered to remove the undissolved material. The filtrate was acidified with conc. HCl to give an oily layer which was extracted with diethylether. The diethylether layer was dried with MgSO4, filtered and then the diethylether was removed by rotary evaporation to yield a cream-colored solid. The product was recrystallized from a 33/66 (v/v) mixture of toluene and pentane (17 g, 64%) mp 126°-127° C.

reactant | phthalic anhydride | 0.11 mol, 16 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | aluminum chloride | 0.22 mol, 30 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isopropylbenzene | 0.10 mol, 12 g | C(C)(C)C1=CC=CC=C1 | C9H12
reactant | Na2CO3 | 500 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon disulfide | 120 mL | C(=S)=S | CS2
product | 2-(4'-Isopropyl benzoyl)benzoic acid | C(C)(C)C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C17H16O3
